US07217723B2
7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonyl chloride
3-Amino-5,6-dihydro-4H-benzo[b]thiophene-7-one hydrochloride (13.8 g) was suspended in a mixture solution of concentrated hydrochloric acid (43 mL), acid acetic (50 mL) and concentrated sulfuric acid (7 mL). An aqueous solution (8.4 mL) of sodium nitrite (5 g) was added dropwise on an ice bath while stirring vigorously so as to maintain the internal temperature at 5° C. or lower. After stirring for 30 minutes, to this reaction solution was added a solution of acetic acid (56 mL) containing copper (II) chloride dihydrate (1.35 g) saturated with sulfurous acid gas. The solution was warmed to room temperature and stirred at room temperature for 3 hours. The reaction solution was poured into ice water and extracted twice with ethyl acetate. After washing the organic layer twice with water and once with saturated sodium chloride water, and then dried with anhydrous magnesium sulfate. The solvent was evaporated at reduced pressure to provide the title compound (14.8 g) as a tango candy-like substance.

reactant | 3-Amino-5,6-dihydro-4H-benzo[b]thiophene-7-one hydrochloride | 13.8 g | Cl.NC=1C2=C(SC1)C(CCC2)=O
reactant | hydrochloric acid | 43 mL | Cl | ClH
reactant | acetic | 50 mL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | sulfuric acid | 7 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 8.4 mL, 5 g | N(=O)[O-].[Na+]
reactant | sulfurous acid | S(O)(O)=O | H2O3S
catalyst | copper (II) chloride dihydrate | 1.35 g | O.O.[Cu](Cl)Cl
solvent | acetic acid | 56 mL | C(C)(=O)O | C2H4O2
product | 7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonyl chloride | 14.8 g | O=C1CCCC2=C1SC=C2S(=O)(=O)Cl | C8H7ClO3S2
